US04062861
To a solution of 3-amino-5-t-butylisoxazole (16.82 g) in anhydrous benzene (140 ml), methyl isocyanate (8.90 g) and triethylamine (0.5 ml) are added. The resulting mixture is stirred at room temperature for about 8 hours, allowed to stand overnight and refluxed for 1 hour. After ice cooling, the reaction mixture is filtered to give a precipitate, which is recrystallized from ethyl acetate to give 1-methyl-3-(5-t-butyl-3-isoxazolyl)urea (21.61 g) as colorless needles melting at 187.0° to 187.5° C.

reactant | 3-amino-5-t-butylisoxazole | 16.82 g | NC1=NOC(=C1)C(C)(C)C | C7H12N2O
reactant | methyl isocyanate | 8.90 g | CN=C=O | C2H3NO
reactant | triethylamine | 0.5 ml | C(C)N(CC)CC | C6H15N
solvent | benzene | 140 ml | C1=CC=CC=C1 | C6H6
product | 1-methyl-3-(5-t-butyl-3-isoxazolyl)urea | 21.61 g | CNC(=O)NC1=NOC(=C1)C(C)(C)C | C9H15N3O2
